Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ceftriaxone
 
Attending: ___
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  ___ male with history of
CAD, paroxysmal atrial fibrillation, and recent admission
(___) for recurrent right septic hip arthritis s/p
washout and I&D course c/b NSTEMI ___ s/p DES to LAD,
multifocal HAP, on ___ transferred from rehab for confusion
and concern for aspiration pneumonia.

Per rehab, patient last seen well at 12:30 on ___. Awake,
alert, and oriented at that time. Later found disoriented. There
was, moreover, subsequent concern for aspiration after vomiting
unspecified number of times. Labs obtained; leukocytosis to 
15.9,
prompting transfer.  

Upon interview, patient oriented to name only. Thinks he is
admitted for a "stroke." He nevertheless denies fevers/chills,
headache, LH/dizziness, chest pain, shortness of breath,
palpitations, N/V, abdominal pain, urinary symptoms, or 
weakness.

Recent hospital courses: initially admitted to ___ on ___
for septic shock ___ to E. coli bacteremia; source presumed to 
be
right ureteral calculus/ pyelonephritis. Accordingly, underwent
cystoscopy with ureteral stent, but ultimately complicated by
right hip septic arthritis s/p I&D. Course also complicated by
LFT derangement, prompting ERCP and CBD placement, albeit
unremarkable study.

Patient then admitted on ___ for recurrent septic arthritis s/p
washout and I&D; wound cx revealed E. coli. On cefepime at
present with planned end date = ___. Course complicated by 
type
I NSTEMI s/p DES to LAD and hypoxemic respiratory failure d/t
multifocal PNA. Of note, diagnosed with cold AI hemolytic 
anemia,
paroxysmal atrial fibrillation, and right hip hematoma.  
 
Past Medical History:
-Right hip OA s/p THA c/b septic arthritis (___) with washout
and I&D x2 
-NSTEMI, type I s/p DES to LAD ___ anterior wall
hypokinesis
-Paroxysmal atrial fibrillation, not on AC (due to DAPT)
-Cold AI hemolytic anemia
-Transaminitis s/p ERCP with CBD stent (___)
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: T 98.2 HR 100 BP 104/52 100 RR 18 O2 96% RA
GENERAL: asleep but arousable, NAD
HEENT: PERRL/EOMI, arcus senilis, anicteric sclerae, no
conjunctival pallor, no oropharyngeal lesions
NECK: supple, no LAD, JVD to mid-neck
CV: regular, S1/S2, holosystolic murmur at apex
PULM: unlabored, diminished bibasilar breath sounds, rare late
inspiratory crackles
GI: soft, normoactive, non-distended, non-tender, no 
organomegaly
GU: Foley
EXT: warm, pulses palpable and symmetric, 2+ dependent pitting
edema to thighs
NEURO: asleep but arousable, decreased alertness, inattentive,
minimally conversant, oriented to name only, otherwise non-focal 


DISCHARGE PHYSICAL EXAM:
GENERAL: Elderly male resting in bed, NAD, A/Ox3, pleasant &
cooperative. Dobhoff in place
HEAD: NC/AT. 
NECK: Supple.
CARDIAC: RRR, S1S2 w/ ___ holosystolic murmur @ apex, no r/g.
RESPIRATORY: Normal effort, CTABL. 
ABODMEN: Soft, NT, +BS. 
EXTREMITIES: Warm, trace edema in left extremity, right lower
extremity with 1+ pitting edema with boot in place, intact
pulses. 

 
Pertinent Results:
ADMISSION LABS
============================================
___ 02:00PM BLOOD WBC-17.0*# RBC-2.71* Hgb-7.9* Hct-25.3* 
MCV-93 MCH-29.2 MCHC-31.2* RDW-16.6* RDWSD-55.0* Plt ___
___ 02:00PM ___
OOD Glucose-110* UreaN-37* Creat-1.6* Na-143 K-4.1 Cl-108 
HCO3-22 AnGap-13
___ 06:19AM BLOOD Glucose-88 UreaN-36* Creat-1.8* Na-148* 
K-3.8 Cl-115* HCO3-21* AnGap-12
___ 02:00PM BLOOD ALT-85* AST-61* CK(CPK)-44* AlkPhos-488* 
TotBili-1.0
___ 06:19AM BLOOD CK-MB-3 cTropnT-0.06* ___
___ 06:56AM BLOOD CRP-204.8*
___ 02:19PM BLOOD Lactate-2.0

============================================
RELEVANT IMAGING
============================================
NCHCT ___
IMPRESSION: 
No acute intracranial process including no hemorrhage or mass 
effect.
MRI would be more sensitive to evaluate for acute infarct.

CXR ___ 
IMPRESSION:  
Mild cardiomegaly with mild interstitial edema and small pleural 
effusions.

RUQUS ___
IMPRESSION:
1. No evidence of cirrhosis or intra or extrahepatic biliary 
dilation.  CBD
stent appears in appropriate position.
2. Evaluation for cholangitis is limited on ultrasound.  
Consider evaluation with MRCP if there is continued clinical 
concern for cholangitis.

TTE ___
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. The estimated pulmonary artery systolic 
pressure is normal. There is a trivial/physiologic pericardial 
effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size, and regional/global systolic function. 
Normal right ventricular cavity size and systolic function. 
Compared with the prior study (images reviewed) of ___, 
the anterior wall is no longer hypokinetic. The degree of mitral 
regurgitation and tricuspid regurgitation is less.  

R HIP PLAIN FILM ___
IMPRESSION: 
Status post right total hip arthroplasty in unchanged alignment, 
similar to
prior.  Resolution of gas surrounding the joint and removal of 
drain.

VIDEO SWALLOW ___
IMPRESSION:
1. Trace silent aspiration with large volume swallowing of thin 
barium liquid likely secondary to swallow delay and reduced 
laryngeal vestibular closure.
2. Intermittent penetration with thin and nectar thick liquid 
likely secondary to reduced laryngeal vestibular closure.
3. Laryngeal vestibular residue with nectar thick liquid cleared 
with
swallowing of thin liquid

MR HEAD ___
IMPRESSION:
1. No acute infarct.  Suggestion of 2 punctate late subacute 
infarcts
involving deep white matter anterior bilateral frontal lobes.
2. Suspected central greater than peripheral volume loss, with 
communicating hydrocephalus, normal pressure hydrocephalus less 
likely consideration.
3. Probable mild chronic small vessel disease.
4. Abnormal bone marrow signal intensity cervical ___ 
related to
smoking, anemia, metabolic disease, and/or infiltrative process.

MRCP ___
IMPRESSION:
1. Limited examination secondary to non breath hold technique.  
Within these limitations, there is no MR explanation for 
elevated LFTs.
2. Common bile duct stent in place with no intra or extrahepatic 
biliary duct dilation.  Pneumobilia and air within the 
gallbladder is expected post ERCP.
3. Bibasilar atelectasis with small bilateral pleural effusions.
 
CTA HEAD & NECK ___:
1. No acute intracranial abnormality.  The 2 punctate late 
subacute infarcts 
involving the deep white matter of the anterior frontal lobes 
are not 
appreciated, likely due to reduced sensitivity of the CT 
modality. 
2. No evidence of dissection, aneurysm or significant stenosis.  
No evidence 
of significant cervical ICA stenosis by NASCET criteria. 
3. Atherosclerotic plaque of the proximal right ICA results in 
up to 25% focal 
vessel narrowing. 
4. Narrowing of the bilateral vertebral arteries at the V3/V4 
junction 
secondary to atherosclerotic disease. 
5. Evidence of mild white matter chronic small vessel ischemic 
disease and 
punctate old right basal ganglia lacunar infarct. 
6. Small bilateral pleural effusions. 

RUQUS w/ DOPPLER ___:
1. Patent hepatic vasculature.  There is no sonographic evidence 
of hepatic 
congestion. 
2. Trace right pleural effusion incidentally noted. 

============================================
PATHOLOGY ___ 
============================================

DIAGNOSIS, ASSESSMENT AND RECOMMENDATIONS: Mr. ___ has a new
diagnosis of an anti-E antibody.The ___ is a member of the 
Rh
blood group system. Anti-E antibodies are clinically significant 
and can
casue hemolytic transfusion reactions.
 
Of note, Mr. ___ has received 13 RBC transfusions at ___ 
since
___, some of which were ___ positive; he is thus at 
risk for a
delayed hemolytic transfusion reaction. The clinical team was 
contacted
by phone yesterday and advised to be aware for signs of delayed
hemolysis such as an unexplained fever, drop in hemoglobin, 
decrease in
haptoglobin, rise in LDH and rise in bilirubin. If the patient 
does
exhibit signs/symptoms of a delayed hemolytic transfusion 
reaction,
treatment is supportive with transfusions of compatible RBCs as
necessary for symptomatic anemia.
 
In the future, Mr. ___ should receive ___ negative 
products for
all red cell transfusions. Approximately 71% of ABO compatible 
blood
will be ___ negative. A wallet card and letter stating the 
above
will be sent to the patient.

============================================
DISCHARGE LABS
============================================
___ 05:05AM BLOOD WBC-7.6 RBC-2.42* Hgb-7.3* Hct-23.3* 
MCV-96 MCH-30.2 MCHC-31.3* RDW-17.8* RDWSD-62.4* Plt ___
___ 05:05AM BLOOD Glucose-126* UreaN-19 Creat-0.8 Na-142 
K-4.8 Cl-104 HCO3-30 AnGap-8*
 
Brief Hospital Course:
Mr. ___ is an ___ w/ recent admission for recurrent 
right E. coli septic hip arthritis s/p I&D c/b c/b NSTEMI s/p 
DES to LAD + multifocal HAP, who presented as a transfer from 
rehab facility w/ AMS, treated for PNA, mental status resolved, 
now w/ question of further AC ISO ACS, CVA, paroxysmal AFIB, 
Cardiology opting for DAPT w/ sotalol treatment. 

TRANSITIONAL ISSUES:
====================

INFECTIUS DISEASE:
------------------
[ ] Continue trimethoprim-sulfamethoxazole 1 DS tablet 2x daily 
for at least 3 months, w/ total course to be determined in 
Infectious Disease follow-up. 
[] Please drawn Chem10 twice weekly. Please fax ALL LAB RESULTS 
TO:
ATTN: ___ CLINIC - FAX: ___.
[] All questions regarding outpatient parenteral antibiotics 
after discharge should be directed to the ___ 
R.N. at ___ or to the on-call ID fellow when the 
clinic is closed.

Cardiology:
-----------
[ ] Patient started on sotalol 80mg twice daily for suppression 
of atrial fibrillation. He will have a Zio Patch monitor (sticky 
monitor on his chest) which transmits his EKG to ___ 
Cardiology for monitoring. 
[ ] QTc on the day of discharge was 460.
[ ] Please obtain EKG for QTc monitoring twice weekly and fax 
results to ___ MD ___.

Neurology:
----------
[ ] Continue dual anti-platelet therpay with ASA and 
clopidogrel.

Other Transitional Issues:
[ ] Please check LFTs & CBC 1x month to monitor transaminitis 
and anemia and fax to ___ PCP ___.
[ ] Patient now has anti-E antibody (BIG E Antibody) which can 
cause hemolytic transfusion reactions and should be related to 
all blood banks in the future.
[ ] Patient should avoid cephalosporins if possible as he has a 
hemolytic reaction to them.
[ ] Patient will be discharged with Dobbhoff tube. Please 
continue to monitor nutritional status with PO intake and 
consult with Nutrition & Speech/Swallow as to when Dobhoff can 
be removed. Until that time, continue with TF formulation as 
described.

ISSUES ADDRESSED:
=================
# Sepsis
# Pneumonia, presumed secondary to aspiration 
Patient presented with AMS ISO PNA. He was initiated on 
vancomycin, meropenem, and MNZ, vancomycin & MNZ were 
discontinued. The meropenem was briefly discontinued in favor of 
pip-taz, to which the patient had a febrile reaction, unclear if 
this was a hemolytic reaction. Transitioned back to meropenem & 
completed a 7-day course. His BCX & UCX remained negative and he 
had no further concerns for infection. 

# AMS
Patient presented w/ AMS ISO sepsis w/ PNA + hypernatremia. 
Improved significantly with treatment of his infection as well 
as correction of his sodium. He was alert, oriented, and engaged 
by the time of discharge.

# Hypernatremia: Hypernatremic during admission, thought to be 
___ poor PO ISO of fear of aspiration. Addressed with IV fluids 
as well as free water flushes through Dobbhoff tube. His sodium 
was 144 on discharge.

# Neurological deficits, subacute stroke:
Noted to have lingual pumping, nystagmus, dysphagia, & b/l upper 
extremity hyper reflexia. Neurology was consulted for 
evaluation. MRI brain shows no acute infarct, 2 punctuate late 
subacute infarcts, communicating hydrocephalus & small-vessel 
disease. 
CTA H/N re-assuring. Will have Neurology f/u on d/c for stroke. 

# Mild-Moderate C. difficile:
PO vancomycin 125mg Q6H (___), to be continued until 1 week 
after TMP-SMX is discontinued.

# Paroxysmal atrial fibrillation
-Rhythm: Currently NSR.
-Rate: BB as above. 
-AC: Deferred ISO DAPT & surgical site hematoma, CHA2DS2VASc 3, 
HAS-BLED 3. 
-Cardiology consulted for question of triple therapy AC ISO 
NSTEMI & recent strokes of unclear etiology though possibly 
related to AFIB. Cardiology recommended to d/c metoprolol, begin 
sotalol 80mg BID & w/hold triple therapy (continue DAPT). We 
started sotalol w/ close monitoring of QTC (453 on d/c). At d/c 
he will continue sotalol & DAPT w/ close Cardiology f/u. 

# NSTEMI s/p DES to LAD
Occurred previous admission this month. Continued DAPT w/ 
clopidogrel + ASA (see above).
Discontinued metoprolol but started sotalol as above. Continued 
statin. 

# Prosthetic joint infection: Pt presented on cefepime for 
ongoing treatment of infection of right prosthetic hip joint. 
Covered w/ meropenem as above, initiated on ciprofloxacin ___ 
for chronic suppression per ID, started on TMP-SMX ___ instead 
of ciprofloxacin ISO beginning sotalol, will continue 
indefinitely until ID follow-up. 

# Transaminitis:
LFTs at level consistent with past hospitalization this month. 
Etiology was unclear though did coincide w/ initiation of statin 
therapy last hospitalization for NSTEMI, CK 284. MRCP 
unremarkable. AMA, anti-smooth muscle Ab negative, ___ positive 
1:160.
Consulted Hepatology for further work-up and management: Rising 
LFTS coincided w/ statin initiation & thus far best explanation 
is statin drug-induced liver injury. Ultimately the benefits of 
statin use favored the risks of discontinuing. Plan for monthly 
monitoring as an outpatient. 

# Normocytic anemia:
# History of AIHA:
Noted on previous admission, Hematology had evaluated last 
admission & felt that his anemia was hemolytic in nature ___ CTX 
use. Continue anemia on this admission, Hematology re-consulted 
and felt that represented lingering drug-induced hemolytic 
anemia (which can take several weeks to improve). Also of note 
is anti-E antibody, making him susceptible to hemolytic 
transfusion reactions, and has received 13 transfusions since 
___, some of which were E-Ag+ & could lead to delayed 
hemolytic transfusion reaction. Finally, had developed large 
anterior right thigh
hematoma which is likely resorbing. We monitored and provided 
folate supplementation and plan for continued outpatient CBC to 
evaluate needs for transfusion. 

# Stage II pressure ulcer, R heel. Present on admission. 
Continued with pressure offloading and dressing changes

Addendum:
# Paroxysmal atrial fibrillation
# Subacute stroke: Patient noted to have lingual pumping, 
nystagmus, dysphagia, and upper extremity hyper-reflexia 
Neurology was consulted and MRI revealed late subacute infarcts, 
communicating hydrocephalus, and small vessel disease. CTA head
and neck reassuring. He is on statin, and DAPT for NSTEMI though 
not on anticoagulation. CHADS2 score reveals 8.5% annual risk of 
stroke with HAS-BLED score of 3 (5.8% risk of bleed). Given 
anemia and risk of initiation of triple therapy,
cardiology was consulted to assist with management 
(consideration of rivaroxiban and clopidogrel per PIONEER 
trial). Cardiology advised rhythm control as a way to minimize 
risk for stroke and to avoid triple anticoagulation given risk 
of bleed.
He was initiated on sotalol with stable Qtc monitoring. After 
discussion with ID, his prophylactic Cipro (for PJI) was 
switched to Bactrim given risk of Qtc prolongation with Cipro 
and sotalol. He was continued on aspirin and Plavix. Plan for 
outpatient cardiology follow up.

___, MD
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO DAILY 
2. FoLIC Acid 5 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. CefePIME 2 g IV Q12H 
5. Atorvastatin 80 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Benzonatate 100 mg PO TID 
8. Acetaminophen 650 mg PO Q6H 
9. GuaiFENesin ER 600 mg PO Q12H 
10. Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID 
11. Ketoconazole 2%  1 Appl TP BID 
12. Potassium Chloride 10 mEq PO DAILY 
13. Pantoprazole 40 mg PO Q24H 
14. Melatin (melatonin) 1 mg oral QHS:PRN 
15. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Sotalol 80 mg PO BID  
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID  
3.  Vancomycin Oral Liquid ___ mg PO Q6H  
4.  Acetaminophen 650 mg PO Q6H  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Clopidogrel 75 mg PO DAILY  
8.  FoLIC Acid 5 mg PO DAILY  
9.  Melatin (melatonin) 1 mg oral QHS:PRN  
10.  Multivitamins 1 TAB PO DAILY  
11.  Pantoprazole 40 mg PO Q24H  
12.Outpatient Lab Work
ICD10: T84.5
Please draw Chem 10 twice weekly. 
Please fax ALL LAB RESULTS TO:
ATTN: ___ CLINIC - FAX: ___

Please draw CBC, LFT monthly.  Please fax results to 
___.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
AMS

SECONDARY DIAGNOSES
NSTEMI
aspiration pneumonia
anemia
transaminitis
C. difficile colitis
paroxysmal atrial fibrillation
prosthetic joint infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to care for you at the ___ 
___.  

WHY DID YOU COME HERE:
-You had vomiting and confusion.  

WHAT HAPPENED WHEN YOU WERE HERE:
-We found you had a pneumonia and we treated that with 
antibiotics.
-We did a scan of your head and found you had a stroke.
-We did a scan of your liver because our blood tests showed it 
was inflamed and your liver was normal.
-You met with the heart doctors because sometimes your heart 
beats funny and we started a medication to make sure your heart 
beats normally.  

WHAT YOU SHOULD DO WHEN YOU LEAVE:
-Continue to take all of your medications & go to all of your 
appointments.
-If you ever need a blood transfusion tell doctors ___ have 
"anti-E antibody."

We wish you the best!  
Your ___ Care Team 
 
Followup Instructions:
___